US04766118
6-(3,4-Dihydro-3-oxo-1,4[2H]-benzothiazin-6-yl)-2,3,4,5-tetrahydropyridazin-3-one
4-(3,4-Dihydro-3-oxo-1,4[2H]-benzothiazin-6-yl)-4-oxobutyric acid (2.0 g) was suspended in 60 ml of ethanol and 1 ml of hydrazine added. The mixture was heated at reflux for three hours, then cooled slowly. Filtration gave 1.85 g of the title compound, mp 299°-302° C.

reactant | 4-(3,4-Dihydro-3-oxo-1,4[2H]-benzothiazin-6-yl)-4-oxobutyric acid | 2.0 g | O=C1CSC2=C(N1)C=C(C=C2)C(CCC(=O)O)=O | C12H11NO4S
reactant | hydrazine | 1 ml | NN | H4N2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 6-(3,4-Dihydro-3-oxo-1,4[2H]-benzothiazin-6-yl)-2,3,4,5-tetrahydropyridazin-3-one | 1.85 g | O=C1CSC2=C(N1)C=C(C=C2)C=2CCC(NN2)=O | C12H11N3O2S
